US06441052B1
5-cyclopentyl-3-methylpentanal oxime (3.7 g; 20 mmol) and acetic anhydride (4.5 g; 40 mmol) were heated at 110° C. during 1.5 hours, poured into ice-water (100 ml), and extracted with MTBE (150 ml). The organic phase was washed with brine (4×150 ml), dried (MgSO4), concentrated in, vacuo, and purified by flash chromatography (MTBE/hexane 1:15) to give 1.9 g (57% yield) of 5-cyclopentyl-3-methylpentanenitrile.

reactant | 5-cyclopentyl-3-methylpentanal oxime | 20 mmol, 3.7 g | C1(CCCC1)CCC(CC=NO)C | C11H21NO
reactant | acetic anhydride | 40 mmol, 4.5 g | C(C)(=O)OC(C)=O | C4H6O3
product | 5-cyclopentyl-3-methylpentanenitrile | 1.9 g, 57% yield | C1(CCCC1)CCC(CC#N)C | C11H19N
